US09084794B2
2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methyl-2-(4-(quinolin-7-yl)phenyl)acetamide
A solution of 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid (0.191 mmol) in dichloromethane (2 mL) was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.286 mmol) and 4-(dimethylamino)pyridine (0.763 mmol) at room temperature. After stirring for 10 minutes, this mixture was treated with methanamine (2M in THF) (0.400 mmol). The reaction vessel was sealed and the reaction was allowed to stir at room temperature for 16 hours. At this point an additional portion of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.15 mmol) and methanamine (2M in THF) (0.400 mmol) was added and the solution was allowed to stir at room temperature for 3 hours. The reaction was concentrated under a nitrogen stream. Purification of the residue by reverse phase HPLC (5-35% acetonitrile with 0.1% TFA/water with 0.1% TFA) and then by silica gel chromatography (0-9% methanol/dichloromethane) followed by lyophilization from water with 10% acetonitrile (1 mL) afforded the title compound (26%) as a white solid. MS(ES)+ m/e 485.4 [M+H]+.

reactant | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid | 0.191 mmol | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)O)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C28H29N3O4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.286 mmol | Cl.CN(CCCN=C=NCC)C
reactant | methanamine | 0.400 mmol, 2M | CN | CH5N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.15 mmol | Cl.CN(CCCN=C=NCC)C
reactant | methanamine | 0.400 mmol, 2M | CN | CH5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.763 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methyl-2-(4-(quinolin-7-yl)phenyl)acetamide | 26% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)NC)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C29H32N4O3
